US08304557B2
ethyl {[(5-{3-[(tert-butoxycarbonyl)amino]-4-chlorophenoxy}pyridin-2-yl)amino]carbonothioyl}carbamate
In the same manner as in Reference Example 30 and using tert-butyl {5-[(6-aminopyridin-3-yl)oxy]-2-chlorophenyl}carbamate (10.8 g, 32.3 mmol), ethyl isothiocyanatoformate (4.60 mL, 38.9 mmol) and DMSO (60 mL) as starting materials, the title compound (14.6 g, 97%) was obtained as a pale-yellow oil.

reactant | tert-butyl {5-[(6-aminopyridin-3-yl)oxy]-2-chlorophenyl}carbamate | 32.3 mmol, 10.8 g | NC1=CC=C(C=N1)OC=1C=CC(=C(C1)NC(OC(C)(C)C)=O)Cl | C16H18ClN3O3
reactant | ethyl isothiocyanatoformate | 38.9 mmol, 4.60 mL | N(=C=S)C(=O)OCC | C4H5NO2S
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
product | ethyl {[(5-{3-[(tert-butoxycarbonyl)amino]-4-chlorophenoxy}pyridin-2-yl)amino]carbonothioyl}carbamate | 14.6 g, 97% | C(C)(C)(C)OC(=O)NC=1C=C(OC=2C=CC(=NC2)NC(=S)NC(OCC)=O)C=CC1Cl | C20H23ClN4O5S
